US08685969B2
7-(2-Methoxyethoxy)-4-(2-methyl-3-(4-oxopyrido[3,2-d]pyrimidin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide (60 mg, 0.154 mmol), 3-aminopicolinic acid (53.1 mg, 0.384 mmol), trimethoxymethane (0.151 mL, 1.383 mmol), and tris(nitrooxy)lanthanum, 6H2O (19.96 mg, 0.046 mmol) in tetrahydrofuran (0.2 mL) was heated at 95° C. in a sealed vial for 16 hr. The mixture remained heterogeneous and very little (<5%) of the desired product was formed. DMF (0.5 mL) was added to the reaction mixture. Also added were additional 3-aminopicolinic acid (26.5 mg, 0.192 mmol) and tris(nitrooxy)lanthanum, 6H2O (10 mg, 0.023 mmol). The mixture was heated at 90° C. for two days. It was diluted with ethyl acetate (100 mL) and washed sequentially with water (25 mL), 1 N NaOH solution (25 mL), water (25 ml), and brine (25 mL). The organic solution was dried over anhydrous MgSO4 and concentrated under vacuum. The residue was purified by reverse phase HPLC. The correct fractions were concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (7.1 mg, 0.013 mmol, 8.51% yield) as a yellow solid. LCMS (M+H)+=521.03. 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropisomer) δ: 11.68 (s, 1H), 8.89 (s, 1H), 8.53 (s, 1H), 8.29 (s, 1H), 8.21 (s, 1H), 7.91 (m, 1H), 7.37 (s, 1H), 4.18 (m, 2H), 3.73 (m, 2H), 3.35 (s, 3H), 1.84 (s, 3H).

reactant | 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.154 mmol, 60 mg | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)C | C22H22N4O3
reactant | 3-aminopicolinic acid | 0.384 mmol, 53.1 mg | NC=1C(=NC=CC1)C(=O)O | C6H6N2O2
reactant | trimethoxymethane | 1.383 mmol, 0.151 mL | COC(OC)OC | C4H10O3
reactant | tris(nitrooxy)lanthanum | [N+](=O)([O-])O[La](O[N+](=O)[O-])O[N+](=O)[O-]
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
product | 7-(2-Methoxyethoxy)-4-(2-methyl-3-(4-oxopyrido[3,2-d]pyrimidin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | <5% | COCCOC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=C(C3=O)N=CC=C1)C)C(=O)N | C29H24N6O4
